US07585886B2
A 2 ml toluene solution of 115 mg of methyl 5-(azidocarbonyl)nicotinate was stirred with heating at 90° C. for 1Hour, and then the reaction solution was cooled down to room temperature. A mixture of 215 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate, 0.07 ml of triethylamine and 2.0 ml of toluene/DMF (1:1) mixed solvent was added dropwise thereto and stirred at room temperature for 4Hours. The reaction solution was mixed with ethyl acetate, washed with water and saturated brine in that order and then dried with anhydrous sodium sulfate. This was concentrated under a reduced pressure, and the thus obtained residue was purified by a silica gel column chromatography (chloroform-methanol) to obtain 88 mg of methyl 5-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)nicotinate as a brown oily substance.

reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl 5-(azidocarbonyl)nicotinate | 115 mg | N(=[N+]=[N-])C(=O)C=1C=NC=C(C(=O)OC)C1 | C8H6N4O3
reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl]{[(3R,4S)-4-phenylpyrrolidin-3-yl]methyl}carbamate | 215 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)C[C@H]1CNC[C@@H]1C1=CC=CC=C1 | C28H34N2O2
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene DMF | 2.0 ml | C1(=CC=CC=C1)C.CN(C)C=O
product | methyl 5-({[(3R,4S)-3-({(tert-butoxycarbonyl)[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]carbonyl}amino)nicotinate | 88 mg | C(C)(C)(C)OC(=O)N([C@H](C)C1=CC=CC2=CC=CC=C12)C[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(=O)NC=1C=NC=C(C(=O)OC)C1 | C36H40N4O5
